US05554607
1-Ethyl-3-(5-fluoro-2-methylphenyl)-2-thioxo-imidazolidin-4-one
A mixture of the crude N-ethyl glycine (11.5 g), 5-fluoro-2-methylphenylisothiocyanate (10.42 g), triethylamine (12.5 g) and chloroform (300 mL) was heated at reflux for 6 hours. The solvent was evaporated. The residue was dissolved in ethyl acetate (500 mL) and washed with water (500 mL). The organic phase was evaporated to dryness. The residue was dissolved in ethanol (50 mL), then diluted with diethyl ether (200 mL). The solution was saturated with hydrogen chloride. The mixture was filtered. The solid was discarded. The filtrate was evaporated to dryness. The residue was dissolved in diethyl ether (300 mL) and washed with water (200 mL). The organic phase was dried over anhydrous sodium sulfate and evaporated to dryness. Crystallization from ethanol afforded the title compound (6.5 g) as a pink solid, m.p. 98°-100° C. Anal. Calcd. for. C12H13F N2O S: C, 57.13; H, 5.19; N, 11.10. Found: C, 56.88; H, 5.17; N, 11.05. Mass spectrum (EI, M.+) m/z 252.

reactant | N-ethyl glycine | 11.5 g | C(C)NCC(=O)O | C4H9NO2
reactant | 5-fluoro-2-methylphenylisothiocyanate | 10.42 g | FC=1C=CC(=C(C1)N=C=S)C | C8H6FNS
reactant | triethylamine | 12.5 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-Ethyl-3-(5-fluoro-2-methylphenyl)-2-thioxo-imidazolidin-4-one | 6.5 g | C(C)N1C(N(C(C1)=O)C1=C(C=CC(=C1)F)C)=S | C12H13FN2OS
